US04053472
15 g. of o-nitrobromobenzene and 13 g. of 3-dibutylaminopropylamine are agitated with 15 g. of anhydrous sodium acetate for 7 hours at 135° C. The reaction mixture is taken up in 70 ml. of 6N hydrochloric acid and 80 ml. of water, the unreacted o-nitrobromobenzene is subjected to steam distillation, the distillation residue is rendered alkaline with potassium hydroxide solution, and extracted with ether. After distilling the residue of the ether extract, 12 g. of 2-(3-dibutylaminopropylamino)-nitrobenzene is obtained, b.p. 140°-160° C. at 0.1 mm Hg.

reactant | o-nitrobromobenzene | [N+](=O)([O-])C1=C(C=CC=C1)Br | C6H4BrNO2
reactant | 3-dibutylaminopropylamine | C(CCC)N(CCCN)CCCC | C11H26N2
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | hydrochloric acid | 6N | Cl | ClH
product | 2-(3-dibutylaminopropylamino)-nitrobenzene | C(CCC)N(CCCNC1=C(C=CC=C1)[N+](=O)[O-])CCCC | C17H29N3O2
